US06586617B1
To a solution of 4-aminoisophthalamide (1.00 g (5.58 mmol) in pyridine (10.0 ml), p-toluenesulfonyl chloride (1.06 g (5.58 mmol) was added with stirring at room temperature. After 3 hours' stirring at room temperature, water was added to the reaction mixture to separate crystals. The crystals were filtered and washed with water and ethyl acetate to give 0.94 g (51%) of 2′,4′-dicarbamoyl-p-toluenesulfonanilide as white crystals.

reactant | 4-aminoisophthalamide | NC1=C(C=C(C(=O)N)C=C1)C(=O)N | C8H9N3O2
reactant | p-toluenesulfonyl chloride | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | water | O | H2O
solvent | pyridine | 10.0 ml | N1=CC=CC=C1 | C5H5N
product | 2′,4′-dicarbamoyl-p-toluenesulfonanilide | 0.94 g, 51% | C(N)(=O)C1=C(NS(=O)(=O)C2=CC=C(C=C2)C)C=CC(=C1)C(N)=O | C15H15N3O4S
